US08865926B2
In a dry 100 L round bottom flask fitted with a magnetic stirrer, condenser, thermocouple probe with temperature control, heating mantle and nitrogen over-gas was placed 13 g (0.06 mole) DPSD and 30 g xylenes. The mixture was heated to 40° C. and stirred to dissolve the DPSD. Using a syringe, 0.2 ml of a 5% tris(pentafluorophenyl)boron in xylenes was added to yield a boron complex concentration of 150 ppm in the solution. From an addition funnel was added 22.2 g (0.06 mole) 3,3-Diphenyl-1,1,5,5-tetramethyltrisiloxane (M′, DPh2M′) at a rate that maintained a slow steady evolution of hydrogen gas. The addition continued for about 1 hour at 40-60° C. Once addition was completed, the reaction mixture was stirred at 60° C. for an hour. When an FTIR analysis of the reaction mixture displayed no signal for SiH at ˜2150 cm−1 and a GC analysis showed about a 79% yield of Tetraphenyl-D4, 0.1 g of magnesium oxide was added to neutralize the catalyst and the reaction mixture was stirred for 30 minutes. The mixture was filtered into a 100 ml round bottom flask and the solvent was removed using a rotary evaporator at 90° C. and <5 mmHg leaving 26.4 g of white crystals in an oil that was ˜76% Tetraphenyl-D4 by GC analysis. Recrystallization from hexamethyldisiloxane afforded 13.6 g of Tetraphenyl-D4 as white crystals with m.p. 131-133° C. The structure was confirmed by 1H NMR analysis.

reactant | DPSD | 0.06 mole, 13 g | CCCCCCCCCCCCCCCC(=O)NC(COC(=O)CCCCCCCCCCCCCCC)C(OC)OC | C37H73NO5
reactant | tris(pentafluorophenyl)boron | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C18BF15
reactant | 3,3-Diphenyl-1,1,5,5-tetramethyltrisiloxane | 0.06 mole, 22.2 g | C1(=CC=CC=C1)[Si](O[SiH](C)C)(O[SiH](C)C)C1=CC=CC=C1 | C16H24O2Si3
reactant | hydrogen | [H][H] | H2
reactant | magnesium oxide | 0.1 g | [O-2].[Mg+2]
product | tetraphenyltetramethylcyclo-tetrasiloxane | 79% yield | C1(=CC=CC=C1)[Si]1(O[Si](O[Si](O[Si](O1)(C)C1=CC=CC=C1)(C)C1=CC=CC=C1)(C)C1=CC=CC=C1)C | C28H32O4Si4
